US07629476B2
2-Chloromethyl-2-(2,5-dimethylphenyl)-[1,3]-dioxolane
A mixture of 18.3 g [0.1 mol] of 2-chloro-1-(2,5-dimethylphenyl)ethanone, 12.6 g [0.2 mol] of ethylene glycol, 1.9 g [0.01 mol] of p-TsOH hydrate and 100 ml of xylene is heated to boiling with a water trap for about 3 hours. 40 ml of water and 20 ml of saturated aqueous NaCl solution are then added to the reaction mixture at room temperature. After addition of 20 ml of xylene, the organic phase is separated off and extracted with 20 ml each of water and saturated aqueous NaCl solution. The organic phase is dried over sodium sulfate and concentrated in vacuo. 18.35 g of oil result with, according to GC, 95.3% product (77.2% of theory).

reactant | 2-chloro-1-(2,5-dimethylphenyl)ethanone | 0.1 mol, 18.3 g | ClCC(=O)C1=C(C=CC(=C1)C)C | C10H11ClO
reactant | ethylene glycol | 0.2 mol, 12.6 g | C(CO)O | C2H6O2
reactant | NaCl | 20 ml | [Na+].[Cl-]
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | 40 ml | O | H2O
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Chloromethyl-2-(2,5-dimethylphenyl)-[1,3]-dioxolane | 18.35 g | ClCC1(OCCO1)C1=C(C=CC(=C1)C)C | C12H15ClO2
